US06114390
a) Ethyl 4-(aminocarbonylaminomethyl)benzoate
38.0 g (0.196 Mol) of 4-(aminocarbonylaminomethyl)benzoic acid were dissolved in 1.5 l of anhydrous ethanol and refluxed for 5 hours while dry hydrogen chloride was introduced. The small amount of insoluble matter was filtered off, the filtrate was concentrated down to a volume of about 100 ml, diluted with 1 l of water and treated with solid potash until the development of carbon dioxide had ended and a distinctly alkaline reaction was obtained. The mixture was left to stand for 2 hours, the crystals formed were suction filtered, washed thoroughly with water, then with diisopropylether and diethylether and dried in vacuo. 32.8 g (75% of theory) of colourless crystals were obtained, Mp. 173-175° C.

reactant | 4-(aminocarbonylaminomethyl)benzoic acid | 0.196 Mol, 38.0 g | NC(=O)NCC1=CC=C(C(=O)O)C=C1 | C9H10N2O3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 1.5 l | C(C)O | C2H6O
product | Ethyl 4-(aminocarbonylaminomethyl)benzoate | NC(=O)NCC1=CC=C(C(=O)OCC)C=C1 | C11H14N2O3
